US05770615
Following the procedure described in part E of Example 1 (R), (S)-α-[[2-[((1,1-dimethylethyl)dimethylsilyl)oxy]-2-[4-hydroxy-3-[(methylsulfonyl)amino]phenyl]ethyl]amino]-4-methoxybenzeneacetic acid was condensed with N-3-aminophenyl-N'-propylurea to generate the title compound. The N-3-aminophenyl-N'-propylurea was prepared by sequentially treating commercial 3-nitrophenylisocyanate with PrNH2 in THF at 20° C. followed by reduction with Na2S2O4 in THF/H2O at 100° C.

reactant | 3-nitrophenylisocyanate | [N+](=O)([O-])C=1C=C(C=CC1)N=C=O | C7H4N2O3
reactant | PrNH2 | C(CC)N | C3H9N
reactant | Na2S2O4 | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF H2O | C1CCOC1.O
product | N-3-aminophenyl-N'-propylurea | NC=1C=C(C=CC1)NC(=O)NCCC | C10H15N3O
